US08202873B2
Dissolve 3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester (6.0 g, 20.2 mmol) and 3-methylbenzeneboronic acid (3.3 g, 24.0 mmol) in dimethoxyethane (20 mL) and water (10 mL). Add tetrakis(triphenylphosphine) palladium(0) (2.3 g, 2.0 mmol) and potassium carbonate (7.5 g, 54 mmol). Heat for 17 hr. at 102° C. and allow to cool about 1.5 hr. to room temperature. Partition reaction mixture between ethyl acetate and water. Separate layers. Wash organic layer with brine, dry (sodium sulfate), filter, concentrate and purify (silica gel chromatography eluting with 10:90 to 20:80 ethyl acetate:hexanes), to give 3′-m-tolyl-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester (3.3 g, 47%). MS (ES): m/z=355 [M+H]+.

reactant | 3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester | 20.2 mmol, 6.0 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CN=C1Cl | C13H19ClN4O2
reactant | 3-methylbenzeneboronic acid | 24.0 mmol, 3.3 g | CC=1C=C(C=CC1)B(O)O | C7H9BO2
reactant | potassium carbonate | 54 mmol, 7.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethoxyethane | 20 mL | C(OC)COC | C4H10O2
solvent | water | 10 mL | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium(0) | 2.0 mmol, 2.3 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3′-m-tolyl-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester | 3.3 g, 47% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CN=C1C=1C=C(C=CC1)C | C20H26N4O2
